.options savecurrents

* input voltage source
vs 1 2 sin(0 230 50)

*supostamente torna a corrente em 2x a corrente em Vs
Fds 2 1 vs 16.7
*torna a voltagem em 0.06x Vs (13.8V)
Ex 3 1 2 1 0.06
*full bridge envelope
D1 3 4 Default
D2 0 3 Default
D3 0 1 Default
D4 1 4 Default
C1 4 0 2u
R2 4 5 1.5k

* positive limiter
Dp1 5 7 Default
Dp2 7 8 Default
Dp3 8 9 Default
Dp4 9 10 Default
Dp5 10 11 Default
Dp6 11 12 Default
Dp7 12 13 Default
Dp8 13 14 Default
Dp9 14 15 Default
Dp10 15 16 Default
Dp11 16 17 Default
Dp12 17 18 Default
Dp13 18 19 Default
Dp14 19 20 Default
Dp15 20 21 Default
Dp16 21 22 Default
Dp17 22 23 Default
Dp18 23 0 Default

.model Default D
.op

.measure tran ymax MAX v(5) from=20m to=200m
.measure tran ymin MIN v(5) from=20m to=200m
.measure tran yavg AVG v(5) from=20m to=200m
.end

.control

tran 1e-5 200e-3
plot  v(3)-v(1) v(4) v(5) v(5)-12 
hardcopy vospice50.ps v(1)-v(3) v(4) v(5) v(5)-12

.endc
